US07332510B2
2-[4-(2-Chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-4-trifluoromethyl-pyrimidine
2-Chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine (150 mg, 0.69 mmol) was dissolved in 5 mL dimethyl formamide. Potassium carbonate (190 mg, 1.37 mmol) and 2-chloro-4-trifluoromethyl-pyrimidine (189 mg, 0.66 mmol) were added and the reaction mixture was stirred at 80° C. overnight. The reaction mixture was poured into 70 mL water and extracted three times with ethyl acetate (100 mL each). The combined organic extracts were dried with sodium sulfate, filtered and evaporated. The crude product was recrystallized from diethyl ether and the desired compound was obtained as a white solid (190 mg, 76%), MS: m/e=364.1 (M+H+).

reactant | 2-Chloro-4-(2-methyl-1H-imidazol-4-ylethynyl)-pyridine | 0.69 mmol, 150 mg | ClC1=NC=CC(=C1)C#CC=1N=C(NC1)C | C11H8ClN3
reactant | Potassium carbonate | 1.37 mmol, 190 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-trifluoromethyl-pyrimidine | 0.66 mmol, 189 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | water | 70 mL | O | H2O
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-[4-(2-Chloro-pyridin-4-ylethynyl)-2-methyl-imidazol-1-yl]-4-trifluoromethyl-pyrimidine | ClC1=NC=CC(=C1)C#CC=1N=C(N(C1)C1=NC=CC(=N1)C(F)(F)F)C | C16H9ClF3N5
